US07186716B2
A mixture of 5-nitro-3-(1H-pyrrol-2-yl)-1H-indazole (400 mg, 1.7 mmol), di-tert-butyl-dicarbonate (0.5 g) and triethylamine (0.2 mL) in ethyl acetate-DCM was stirred at room temperature for overnight. The reaction was washed with brine, concentrated and triturated with ethyl acetate-hexane to give 450 mg of 2,2-dimethyl-propionic acid 5-nitro-3-(1H-pyrrol-2-yl)-indazol-1-yl ester as a yellow solid.

reactant | 5-nitro-3-(1H-pyrrol-2-yl)-1H-indazole | 1.7 mmol, 400 mg | [N+](=O)([O-])C=1C=C2C(=NNC2=CC1)C=1NC=CC1 | C11H8N4O2
reactant | di-tert-butyl-dicarbonate | 0.5 g | C(C)(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
reactant | triethylamine | 0.2 mL | C(C)N(CC)CC | C6H15N
reactant | ethyl acetate DCM | C(C)(=O)OCC.C(Cl)Cl
product | 2,2-dimethyl-propionic acid 5-nitro-3-(1H-pyrrol-2-yl)-indazol-1-yl ester | 450 mg | [N+](=O)([O-])C=1C=C2C(=NN(C2=CC1)OC(C(C)(C)C)=O)C=1NC=CC1 | C16H16N4O4
